* Wurlitzer 200A — Volume Pot DC Effect
* ======================================
* Compare operating points with and without volume pot.
* Key question: does the pot change the internal DC bias?

.title Pump: Pot DC Effect

.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/preamp.cir

* === Without pot, R_ldr = 1M ===
Vcc1 vcc1 0 DC 14.5
Xpre1 in1 out1 vcc1 0 fb1 wurli_preamp
Vin1 in1 0 DC 0
Rldr1 fb1 0 1MEG

* === Without pot, R_ldr = 19K ===
Vcc2 vcc2 0 DC 14.5
Xpre2 in2 out2 vcc2 0 fb2 wurli_preamp
Vin2 in2 0 DC 0
Rldr2 fb2 0 19K

* === With pot (3K), R_ldr = 1M ===
Vcc3 vcc3 0 DC 14.5
Xpre3 in3 out3 vcc3 0 fb3 wurli_preamp
Vin3 in3 0 DC 0
Rldr3 fb3 0 1MEG
Rpot3 out3 0 3K

* === With pot (3K), R_ldr = 19K ===
Vcc4 vcc4 0 DC 14.5
Xpre4 in4 out4 vcc4 0 fb4 wurli_preamp
Vin4 in4 0 DC 0
Rldr4 fb4 0 19K
Rpot4 out4 0 3K

.OP

.end
